US05356905
3-(4-Hydroxy-4-phenylpiperidino)-7-(triisopropylsilyloxy)-4-chromanone
7-(Triisopropylsilyloxy)-4-chromanone (2.0 g, 6.2 mmol) was dissolved in CCl4 (45 ml). Bromine (0.3 ml, 6.4 mmol) in CCl4 (5 ml) was added dropwise at ambient temperature over 10 minutes. The reaction initially turned dark red but after stirring for 10 minutes the color changed to light yellow. This yellow solution was washed with dilute NaHSO3, saturated NaHCO3 and brine, dried by filtering through phase separatory paper, and concentrated to yield a brown oil (2.3 g, 93%) which NMR showed was a 2.5:1:1 mixture of 3-bromo-7-(triisopropylsilyloxy)-4-chromanone, 3,3-dibromo-7-(triisopropylsilyloxy)-4-chromanone and starting material. This crude mixture (2.3 g, 5.6 mmol) was combined with 4-hydroxy-4-phenyl piperidine (1.0 g, 5.8 mmol), triethylamine (0.9 ml, 6.5 mmol) and ethanol (50 ml). The reaction was refluxed for 3 hours, then cooled and concentrated. The residue was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried over CaSO4, concentrated and the residue chromatographed on silica gel using gradient elution with ethyl acetate/hexanes to give 80 mg (3%) of present title product as a yellow solid, mp 132°-132.5° C.

reactant | 3-bromo-7-(triisopropylsilyloxy)-4-chromanone | BrC1COC2=CC(=CC=C2C1=O)O[Si](C(C)C)(C(C)C)C(C)C | C18H27BrO3Si
reactant | 3,3-dibromo-7-(triisopropylsilyloxy)-4-chromanone | BrC1(COC2=CC(=CC=C2C1=O)O[Si](C(C)C)(C(C)C)C(C)C)Br | C18H26Br2O3Si
reactant | 4-hydroxy-4-phenyl piperidine | 5.8 mmol, 1.0 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | triethylamine | 6.5 mmol, 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(4-Hydroxy-4-phenylpiperidino)-7-(triisopropylsilyloxy)-4-chromanone | 80 mg, 3% | OC1(CCN(CC1)C1COC2=CC(=CC=C2C1=O)O[Si](C(C)C)(C(C)C)C(C)C)C1=CC=CC=C1 | C29H41NO4Si
